US04939066
Synthesis of 4-Chloro-3-nitro-N-methyl-N-octadecylbenzenesulfonamide
300 m(of chloroform was added to 100 g of 4-chloro-3-nitrobenzenesulfonyl chloride and the mixture was cooled to 0° C. Then, a chloroform solution containing 84.3 g of methyloctadecylamine was added dropwise to the mixture. After 39.5 g of triethylamine was added dropwise thereto while the temperature was kept at 0° to 10° C.., the mixture was stirred for 1 hour at room temperature. The chloroform was distilled off under reduced pressure, then 500 ml of methanol was added to the residue, and it was heated to dissolve the residue. The mixture was cooled to precipitate crystals and the crystals were filtered and dried.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 4-chloro-3-nitrobenzenesulfonyl chloride | 100 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | methyloctadecylamine | 84.3 g | CNCCCCCCCCCCCCCCCCCC | C19H41N
solvent | triethylamine | 39.5 g | C(C)N(CC)CC | C6H15N
product | 4-Chloro-3-nitro-N-methyl-N-octadecylbenzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(CCCCCCCCCCCCCCCCCC)C)[N+](=O)[O-] | C25H43ClN2O4S
